US04001244
A solution of 45 parts of benzoyl chloride in 149 parts of chloroform is added portionwise over a 30 minute period to a solution of 78 parts of 3-benzyloxy-4-methoxyphenethylamine in 72 parts of triethylamine and 596 parts of chloroform. The mixture is stirred at room temperature for an additional 90 minutes. It is then washed twice with water and once with dilute aqueous sodium bicarbonate solution, dried over anhydrous calcium sulfate and stripped to a low volume under reduced pressure. Addition of n-hexane results in crystallization of N-(3-benzyloxy-4-methoxyphenethyl)benzamide. That product melts at about 136°-138°C.

reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3-benzyloxy-4-methoxyphenethylamine | C(C1=CC=CC=C1)OC=1C=C(CCN)C=CC1OC | C16H19NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(3-benzyloxy-4-methoxyphenethyl)benzamide | C(C1=CC=CC=C1)OC=1C=C(CCNC(C2=CC=CC=C2)=O)C=CC1OC | C23H23NO3
